US07105544B2
N-(3-{4-[3-(BUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-CHLOROPHENYL)CYCLOBUTANECARBOXAMIDE
Example 106 was prepared from 1-(4-chlorophenyl)cyclobutanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}butanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.53 (s, 2H), 7.32–7.23 (m, 6H), 6.95 (d, 1H, J=7.6 Hz), 6.53 (br s, 1H), 3.29 (dd, 2H, J=6.0, 12.4 Hz), 2.93 (d, 2H, J=10.8 Hz), 2.86–2.79 (m, 2H), 2.48–2.41 (m, 3H), 2.37–2.30 (m, 4H), 2.07 (m, 1H), 1.98–1.61 (m, 11H), 1.01 (t, 3H, J=7.6 Hz); ESMS m/e: 496.3 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclobutanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCC1)C(=O)O | C11H11ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}butanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CCC)=O | C18H29N3O
product | N-(3-{4-[3-(BUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-CHLOROPHENYL)CYCLOBUTANECARBOXAMIDE | C(CCC)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C1(CCC1)C1=CC=C(C=C1)Cl | C29H38ClN3O2
